US07414036B2
3-Bromo-4-hydroxy-5-nitrobenzonitrile
To a mixture of 5 g (30.5 mmol) of 4-hydroxy-3-nitrobenzonitrile in H2SO4 solution (50 mL of concentrated H2SO4+50 mL of H2O) at 25° C., 7.9 g (47.3 mmol) of potassium bromate were added in small portions cooling the flask with an ice-bath and maintaining the temperature between 25 and 35° C. After the addition was completed, the reaction was stirred at room temperature for 22 h and then filtered. The pale yellow solid was washed with water and dried to give 4.2 g (57%) of the title compound. M.p.: 162-164° C.; 1H NMR (CD3OD) δ 8.54 (d, 1H, J=2.0 Hz, H-6), 8.32 (d, 1H, J=2.0 Hz, H-2); 13C NMR (DMSO-d6) δ 153.9 (C-4), 140.8 (C-2), 138.2 (C-5), 130.1 (C-6), 117.0 (CN), 115.9 (C-3), 101.6 (C-1).

reactant | 4-hydroxy-3-nitrobenzonitrile | 30.5 mmol, 5 g | OC1=C(C=C(C#N)C=C1)[N+](=O)[O-] | C7H4N2O3
reactant | potassium bromate | 47.3 mmol, 7.9 g | Br(=O)(=O)[O-].[K+]
solvent | H2SO4 | 50 mL | OS(=O)(=O)O | H2O4S
product | 3-Bromo-4-hydroxy-5-nitrobenzonitrile | 4.2 g, 57% | BrC=1C=C(C#N)C=C(C1O)[N+](=O)[O-] | C7H3BrN2O3
